US07291640B2
6-Chloro-nicotinic acid N′-[2-(2-methoxy-ethoxy)-acetyl]-hydrazide
(2-Methoxy-ethoxy)-acetyl chloride (2.13 g, 13.99 mmol) was added to an ice-cold solution of 6-chloronicotinic acid hydrazide (2 g, 11.66 mmol) and N-methylmorpholine (1.92 mL, 17.49 mmol) in dichloromethane (60 mL) and the mixture was stirred at room temperature for 18 hours. The mixture was then treated with sodium hydrogen carbonate solution and concentrated in vacuo. The aqueous residue was extracted with dichloromethane (×2) and the combined organic solutions were washed with brine and dried over sodium sulfate and concentrated in vacuo to give a pale yellow residue. The residue was then stirred in diethyl ether for 2 hours, filtered and dried to afford the title compound as a pale yellow solid in 51% yield, 1.7 g.

reactant | (2-Methoxy-ethoxy)-acetyl chloride | 13.99 mmol, 2.13 g | COCCOCC(=O)Cl | C5H9ClO3
reactant | 6-chloronicotinic acid hydrazide | 11.66 mmol, 2 g | ClC1=NC=C(C(=O)NN)C=C1 | C6H6ClN3O
reactant | N-methylmorpholine | 17.49 mmol, 1.92 mL | CN1CCOCC1 | C5H11NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-Chloro-nicotinic acid N′-[2-(2-methoxy-ethoxy)-acetyl]-hydrazide | 51% yield | COCCOCC(=O)NNC(C1=CN=C(C=C1)Cl)=O | C11H14ClN3O4
